US04876346
(A) (1R)-1-(3-Hydroxyphenyl)-2-(N-ethylcarbamoyl)amino ethanol
To a suspension of R-phenylephrine (10.0 g, 59.8 mmol) in diethyl ether (200 ml) with triethylamine (4 drops) is added ethyl isocyanate (4.25 g, 59.8 mmol) in diethyl ether (50 ml). The reaction is allowed to stir overnight at room temperature. A white suspension forms which is decanted from the precipitated gum, filtered and dried giving 3.0 g (21% yield) of product, m.p. 102°-105° C.

reactant | R-phenylephrine | 59.8 mmol, 10.0 g | CNC[C@@H](C1=CC(=CC=C1)O)O | C9H13NO2
reactant | ethyl isocyanate | 59.8 mmol, 4.25 g | C(C)N=C=O | C3H5NO
reactant | diethyl ether | 200 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
catalyst | triethylamine | 4 drops | C(C)N(CC)CC | C6H15N
product | (1R)-1-(3-Hydroxyphenyl)-2-(N-ethylcarbamoyl)amino ethanol | 3.0 g, 21% yield | OC=1C=C(C=CC1)[C@H](CNC(NCC)=O)O | C11H16N2O3
